US06677368B2
4-(4-Fluoro-phenyl)-1,3-dihydro-indol-2-one
To the suspension of 4-(4-fluoro-phenyl)-1H-indole (2.28 g, 10.79 mmol) in t-BuOH-ethanol-acetic acid (3:2:1) (147 mL) was added pyridinium tribromide (90% purity from Aldrich, 11.51 g, 32.38 mmol)) portionwise. The mixture was stirred at 27° C. for 3 hours, and then to the mixture was added acetic acid (108 mL). Zinc dust (10.52 g, 162 mmol) was added to the reaction mixture portionwise, and the reaction mixture was stirred at room temperature for one hour. The unreacted zinc dust was filtered off and washed with ethanol. The filtrate was concentrated and the syrupy residue was suspended in water for 4 hour. The solid product was precipitated out, filtered, and washed repeatedly with water to remove the zinc salt and pyridine salt. After high vacuum dry, a pure product (2.40 g, 98%) was obtained.

reactant | 4-(4-fluoro-phenyl)-1H-indole | 10.79 mmol, 2.28 g | FC1=CC=C(C=C1)C1=C2C=CNC2=CC=C1 | C14H10FN
reactant | pyridinium tribromide | 32.38 mmol, 11.51 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 108 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH ethanol acetic acid | 147 mL | CC(C)(C)O.C(C)O.C(C)(=O)O
catalyst | Zinc | 162 mmol, 10.52 g | [Zn] | Zn
product | 4-(4-Fluoro-phenyl)-1,3-dihydro-indol-2-one | 2.40 g, 98% | FC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C14H10FNO
